US05336807
Dimethyl adipate (25.00 g, 0.1435 mol) was aminated with 38.63 g (0.290 mol) of 4,4-dimethoxybutylamine and 2.50 g (0.00847 mol) of dibutyl tin dimethoxide in 200 g of mixed xylenes according to the procedure used in Example 1. This procedure afforded 36.47 g (0.0969 mol, 67.5% isolated yield) of the desired N,N'-bis(4,4-dimethoxybutyl)adipamide after recrystallization from mixed xylenes, mp 73°-75° C.; IR (KBr) 1640 (C=O), 1540, 1415, 1195, 1135, 1040 cm-1 ; 1H NMR (CDCl3 ; 300 MHz) δ8 1.42-1.63 (m, 12H, --CH2 --), 2.06-2.18 (m, 4H, CO--CH2 --), 3.13-3.20 (m, 4H, --NH2CH2 --), 3.23 (s 12H, --OCH3), 4.27 (t, 2H, J=5.2 Hz, CH2CH--), 6.38 (t, 2H, J=5.5 Hz, --NH--CH2 --); 13C NMR (CDCl3 ; 75.5 MHz) δ24.4, 25.0, 29.8, 36.0, 39.0, 52.8, 104.2, 172.7; MS (70 eV) m/z (rel. intensity) 286 (2.96), 244 (10.19), 228 (14.05), 212 (29.35), 85 (28.09), 84 (38.06), 75 (89.07), 70 (100.00); HRMS (FAB) 377.2652 (MH+).

reactant | Dimethyl adipate | 0.1435 mol, 25.00 g | C(CCCCC(=O)OC)(=O)OC | C8H14O4
reactant | 4,4-dimethoxybutylamine | 0.290 mol, 38.63 g | COC(CCCN)OC | C6H15NO2
catalyst | dibutyl tin dimethoxide | 0.00847 mol, 2.50 g | C[O-].C[O-].C(CCC)[Sn+2]CCCC
product | N,N'-bis(4,4-dimethoxybutyl)adipamide | 0.0969 mol, 36.47 g, 67.5% | COC(CCCNC(CCCCC(=O)NCCCC(OC)OC)=O)OC | C18H36N2O6
